US06759420B1
i) 2-(S)-{2-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid phenethyl-amide acetic acid salt
At 4° C. TOTU (48 mg, 0.14 mmol) was added to a solution of [3-(4-carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid hydrochloric acid salt (60 mg, 0.14 mmol), (S)-2-amino-5-guanidino-pentanoic acid phenethyl-amide dihydrochloride (51 mg, 0.14 mmol) and N-ethylmorpholine (56 μl, 0.42 mmol) in dimethylformamide (10 ml). The mixture was stirred at 22° C. for 15 hours. The solvent was evaporated and the residue was purified by column chromatography (Sephadex LH20, n-butanol/acetic acid/water 17:1:2) to give two stereoisomeric product mixtures. more polar diastereomeric mixture: 41 mg MS m/z 673.6 (M+H)+. less polar diastereomeric mixture: 21 mg MS m/z 673.6 (M+H)+. Total yield: 57%.

reactant | TOTU | 0.14 mmol, 48 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | [3-(4-carbamimidoyl-phenyl)-2-(R,S)-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid hydrochloric acid salt | 0.14 mmol, 60 mg | Cl.C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)O)C1CCCCC1)C1CCCCC1
reactant | (S)-2-amino-5-guanidino-pentanoic acid phenethyl-amide dihydrochloride | 0.14 mmol, 51 mg | Cl.Cl.C(CC1=CC=CC=C1)NC([C@H](CCCNC(=N)N)N)=O
reactant | N-ethylmorpholine | 0.42 mmol, 56 μl | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(S)-{2-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid phenethyl-amide acetic acid salt | yield: 57% | C(C)(=O)O.C(CC1=CC=CC=C1)NC([C@H](CCCNC(=N)N)NC(C(C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(N)=N)C1CCCCC1)=O)=O)=O | InChI=1S/C38H56N8O3.C2H4O2/c39-34(40)30-20-18-27(19-21-30)25-31(28-13-6-2-7-14-28)35(47)46-33(29-15-8-3-9-16-29)37(49)45-32(17-10-23-44-38(41)42)36(48)43-24-22-26-11-4-1-5-12-26;1-2(3)4/h1,4-5,11-12,18-21,28-29,31-33H,2-3,6-10,13-17,22-25H2,(H3,39,40)(H,43,48)(H,45,49)(H,46,47)(H4,41,42,44);1H3,(H,3,4)/t31?,32-,33?;/m0./s1
